US06642244B2
(3R)-1-[[3-[5-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-4,8-dihydro-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]-3-(dimethylamino)pyrrolidine
A solution of (3R)-3-(Dimethylamino)-1-[[3-[5-[[(3-chloro-4-methoxyphenyl)methyl]amino]-4,8-dihydro-8-[(4-methoxyphenyl)methyl]-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]pyrrolidine in TFA (4 mL) was heated at reflux for 1 h. under nitrogen. After removal of the excess TFA, the residue was purified by preparative HPLC to give the desired product (32 mg) as a TFA salt. LC: 3.12 (Gradient 2); MH+: 667.

reactant | (3R)-3-(Dimethylamino)-1-[[3-[5-[[(3-chloro-4-methoxyphenyl)methyl]amino]-4,8-dihydro-8-[(4-methoxyphenyl)methyl]-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]pyrrolidine | CN([C@H]1CN(CC1)S(=O)(=O)C1=CC(=C(C=C1)OCCC)C1=NC(C2=C(N1)C=1C(N=C2NCC2=CC(=C(C=C2)OC)Cl)=NN(C1)CC1=CC=C(C=C1)OC)=O)C | C39H43ClN8O6S
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (3R)-1-[[3-[5-[[(3-Chloro-4-methoxyphenyl)methyl]amino]-4,8-dihydro-4-oxo-1H-pyrazolo[4′,3′:5,6]pyrido[4,3-d]pyrimidin-2-yl]-4-propoxyphenyl]sulfonyl]-3-(dimethylamino)pyrrolidine | 32 mg | ClC=1C=C(C=CC1OC)CNC1=NC=2C(C=3NC(=NC(C31)=O)C=3C=C(C=CC3OCCC)S(=O)(=O)N3C[C@@H](CC3)N(C)C)=CNN2 | C31H35ClN8O5S
